US07265148B2
Synthesis of N-{[1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-leucine
The title compound was prepared from 1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid and L-leucine ethyl ester hydrochloride followed the procedure of Example 2 Step 4 as a white solid: 1H NMR (DMSO-d6) δ 0.76 (d, J=6.5 Hz, 3 H), 0.77 (d, J=6.5 Hz, 3 H), 1.20-1.40 (m, 1 H), 1.40-1.50 (m, 1 H), 1.50-1.60 (m, 1H), 4.28-4.40 (m, 1 H), 5.55 (d, J=16.1 Hz, 1 H), 5.61 (d, J=16.2 Hz, 1 H), 6.21 (t, J=2.0 Hz, 2 H), 7.20-7.50 (m, 12 H), 7.55-7.65 (m, 3 H), 8.89 (d, J=7.8 Hz, 1 H), 12.64 (br s, 1 H); MS (ESI) m/z 506 (MH+); MS (ESI) m/z 504 ([M-H]−); HRMS calcd for C32H32N3O3: 506.2444; found (ESI+): 506.2429; Anal. calcd for C32H31N3O3.0.25 H2O: C, 75.35; H, 6.22; N, 8.23. Found: C, 75.42; H, 5.86; N, 7.98.

reactant | 1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C=CC=C1)C1=CC=CC=C1)C(=O)O | C26H20N2O2
reactant | L-leucine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CC(C)C)=O
solvent | H2O | O | H2O
product | N-{[1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-leucine | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C32H31N3O3
